US05977075
To a solution of N-t-butoxycarbonyl-D-tyrosine methyl ester (2.5 g, 9.48 mmol) in 10 mL of methylene chloride and pyridine (1.9 mL, 23.7 mmol) at -15° C. is added triflic anhydride (1.9 mL, 11.4 mmol). The reaction is stirred 30 minutes. The mixture is washed with water, 0.5 N NaOH, 15% aqueous citric acid, brine dried over MgSO4, filtered and concentrated giving N-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-D-phenyl alanine methyl ester. A solution of 3-thiopheneboronic acid (1.4 g, 10.9 mmol), potassium carbonate (1.13 g, 8.2 mmol) in 25 mL of toluene is heated to 80° C. and the catalyst tetrakis (triphenyl phosphine)-Pd (0.19 g, 0.16 mmol) is added. N-t-Butoxycarbonyl-4-trifluoro methanesulfonyloxy-D-phenylalanine methyl ester (2.34 g, 5.47 mmol) in 25 mL of toluene is added dropwise and stirred at 80° C. for 3 hours. The mixture is filtered through Celite and washed with ethyl acetate. The organic layer is washed with 0.5 N NaOH (2×), 15% citric acid, water, brine, dried over MgSO4, filtered and concentrated. Chromatography on silica gel with ethyl acetate/toluene (1:5) gives N-t-butoxy carbonyl-4-(3-thienyl)-D-phenylalanine methyl ester. Treatment of the above with dilute HCl in 1,4-dioxane at room temperature overnight yields 4-(3-thienyl)-D-phenylalanine methyl ester hydrochloride.

reactant | 3-thiopheneboronic acid | 10.9 mmol, 1.4 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 8.2 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-t-Butoxycarbonyl-4-trifluoro methanesulfonyloxy-D-phenylalanine methyl ester | 5.47 mmol, 2.34 g | COC([C@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C16H20F3NO7S
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-t-butoxy carbonyl-4-(3-thienyl)-D-phenylalanine methyl ester | COC([C@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CSC=C1)=O | C19H23NO4S
